US09107916B2
C. 2-(5-phenyl-1H-pyrazol-1-yl)isonicotinic acid
To a stirred solution of 2-(5-phenyl-1H-pyrazol-1-yl)isonicotinonitrile (100 mg, 0.41 mmol) in EtOH (10 mL) was added a solution of 25% NaOH in water (1.0 mL). The reaction mixture was heated under reflux conditions at 80° C. for 1 h. After reaction completion, the solvent was removed, and the resultant mixture was diluted with water, and the pH was adjusted to pH=4-5 with 2.0 N HCl. The mixture was extracted with EtOAc (3×15 mL), the combined organic layers were dried over Na2SO4, and the solvent was removed to obtain pale yellow solid, which was washed with hexane and dried under reduced pressure to afford the title compound (60 mg, 55% yield). 1H NMR (300 MHz, DMSO-d6) δ 8.5 (S, 1H), 8.2 (d, 1H, J=2.1 Hz), 7.9 (s, 1H), 7.78 (s, 1H), 7.7 (d, 1H, J=2.7 Hz), 7.3 (m, 2H), 7.2 (m, 1H), 6.65 (s, 2H). [M+H] Calc'd for C15H11N3O2, 266. Found, 266.

reactant | 2-(5-phenyl-1H-pyrazol-1-yl)isonicotinonitrile | 0.41 mmol, 100 mg | C1(=CC=CC=C1)C1=CC=NN1C=1C=C(C#N)C=CN1 | C15H10N4
reactant | NaOH | [OH-].[Na+]
reactant | EtOH | 10 mL | CCO | C2H6O
solvent | water | 1.0 mL | O | H2O
product | 2-(5-phenyl-1H-pyrazol-1-yl)isonicotinic acid | 60 mg, 55% yield | C1(=CC=CC=C1)C1=CC=NN1C=1C=C(C(=O)O)C=CN1 | C15H11N3O2
